US05034417
A mixture of 3-(2,4-difluorophenylamino)-4-nitrobenzonitrile (3.5 g), iron powder (3.5 g) and ammonium chloride (0.35 g) in ethanol (50 ml) and water (25 ml) was refluxed for 1 hour. The insoluble material was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with water, dried and evaporated to dryness. The residual oil (3 g) was purified by column chromatography on silica gel (100 g) eluting with a mixture of toluene and ethyl acetate to give a powder of 4-amino-3-(2,4-difluorophenylamino)benzonitrile (1.2 g).

reactant | 3-(2,4-difluorophenylamino)-4-nitrobenzonitrile | 3.5 g | FC1=C(C=CC(=C1)F)NC=1C=C(C#N)C=CC1[N+](=O)[O-] | C13H7F2N3O2
reactant | ammonium chloride | 0.35 g | [Cl-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
catalyst | iron | 3.5 g | [Fe] | Fe
product | 4-amino-3-(2,4-difluorophenylamino)benzonitrile | 1.2 g | NC1=C(C=C(C#N)C=C1)NC1=C(C=C(C=C1)F)F | C13H9F2N3
